US05254733
To a solution of 20.0 kg (119 mol) of ethyl (E,E)-4-ethyl-2,4-hexadienoate in 15 l of methanol is added a solution of 6.0 kg (150 mol) of sodium hydroxide in 60 l of water. The mixture is heated at 50°-55° C. for 1 hour and then cooled to 20°~25° C., poured into a 8%-hydrochloric acid solution at same temperature. The precipitate formed is collected by filtration, washed with 200 l of water and dried in vacuo overnight to give 16.2 kg of (E,E)-4-ethyl-2,4-hexadienoic acid (Yield 97.4%).

reactant | ethyl (E,E)-4-ethyl-2,4-hexadienoate | 119 mol, 20.0 kg | C(C)/C(/C=C/C(=O)OCC)=C\C | C10H16O2
reactant | sodium hydroxide | 150 mol, 6.0 kg | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 15 l | CO | CH4O
solvent | water | 60 l | O | H2O
product | (E,E)-4-ethyl-2,4-hexadienoic acid | 16.2 kg, Yield 97.4% | C(C)/C(/C=C/C(=O)O)=C\C | C8H12O2
